US04894386
Palladium on carbon (1.1 g, 10% w/w) was added to a solution of methyl E-4-[5-(3-carboxyprop-1-enyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate (10.8 g) in ethyl acetate (300 ml) and tetrahydrofuran (100 ml), and the mixture hydrogenated at atmospheric pressure for 6 hr. The catalyst was removed by filtration through diatomaceous earth, the filter cake washed with ethyl acetate, and the combined filtrate evaporated. The residue was stirred in 1:4 ethyl acetate:hexane (150 ml) and the product isolated by filtration to give methyl 4-[5-(3-carboxypropyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate (8.72 g, 80%) as an off-white powder; mp 106°-109°; NMR (300 MHz, DMSO-d6): 0.81(t, 3H, CH3), 1.68-1.83(m, 4H), 2.20(t, 2H), 2.61(t, 2H), 3.83(s, 3H, OCH3), 3.91(s, 3H, OCH3), 4.02(m, 4H, NCH2, ArCH2Ar'), 6.92(d, 1H), 7.08(s, 1H), 7.23(m, 2H), 7.32(d, 1H), 7.44(m, 2H).

reactant | methyl E-4-[5-(3-carboxyprop-1-enyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 10.8 g | C(=O)(O)C/C=C/C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C25H27NO5
catalyst | Palladium on carbon | 1.1 g | [Pd] | Pd
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | methyl 4-[5-(3-carboxypropyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 8.72 g, 80% | C(=O)(O)CCCC=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C25H29NO5
